US09034880B2
Preparation of the title compound was carried out according to General Method 8. 4-Chlorophenylhydrazine hydrochloride (9 g, 50 mmol), 5-(2-bromoethyl)-2-methylpyridine (10 g, 50 mmol), triethyl amine (21 ml, 150 mmol) and N-methyl-4-piperidone hydrochloride (7.5 g, 50 mmol) were taken in ethanol (100 ml) to obtain 390 mg of 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole after on purification on silica gel (230-400 mesh) chromatography eluting with methanol-dichloromethane gradient followed by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | 4-Chlorophenylhydrazine hydrochloride | 50 mmol, 9 g | Cl.ClC1=CC=C(C=C1)NN
reactant | 5-(2-bromoethyl)-2-methylpyridine | 50 mmol, 10 g | BrCCC=1C=CC(=NC1)C | C8H10BrN
reactant | triethyl amine | 150 mmol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-4-piperidone hydrochloride | 50 mmol, 7.5 g | Cl.CN1CCC(CC1)=O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(6-methylpyridin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | 390 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C)CCN(C3)C | C20H22ClN3
